US09233974B2
(2S,5S)-1-(S)-2-((2R,6R)-2,6-dimethyltetrahydro-2H-pyran-4-yl)-2-(methoxycarbonylamino)acetyl)-5-methylpyrrolidine-2-carboxylic acid was synthesized in a similar manner as Intermediate 4 substituting (S)-2-(methoxycarbonylamino)-3-methylbutanoic acid with (S)-2-((2R,6R)-2,6-dimethyltetrahydro-2H-pyran-4-yl)-2-(methoxycarbonylamino)acetic acid. 1H NMR (400 MHz, Chloroform-d) δ 5.33-5.16 (m, 1H), 4.70-4.59 (m, 1H), 4.54 (t, 1H), 4.34-4.19 (m, 2H), 4.12 (q, 1H), 3.78-3.70 (m, 1H), 3.67 (s, 3H), 2.37-2.17 (m, 3H), 2.15-2.07 (m, 1H), 2.04 (s, 1H), 1.84-1.73 (m, 1H), 1.82-1.43 (m, 3H), 1.32 (d, 3H), 1.26 (d, 4H), 1.11 (d, 3H), 0.96 (q, 1H). LCMS-ESI+ calc'd for C17H29N2O6: 357.19. Found: 357.08.

reactant | (S)-2-(methoxycarbonylamino)-3-methylbutanoic acid | COC(=O)N[C@H](C(=O)O)C(C)C | C7H13NO4
reactant | (S)-2-((2R,6R)-2,6-dimethyltetrahydro-2H-pyran-4-yl)-2-(methoxycarbonylamino)acetic acid | C[C@H]1O[C@@H](CC(C1)[C@@H](C(=O)O)NC(=O)OC)C | C11H19NO5
product | 5-methylpyrrolidine-2-carboxylic acid | CC1CCC(N1)C(=O)O | C6H11NO2
